US07910595B2
4-(4-tert-Butoxycarbonylamino-phenylsulfanyl)-3-(7-isopropyl-pyrido[2,3-d]pyrimidin-4-ylamino)-benzoic acid
To a solution of 4-(4-tert-butoxycarbonylamino-phenylsulfanyl)-3-(7-isopropyl-pyrido[2,3-d]pyrimidin-4-ylamino)-benzoic acid methyl ester (3.25 g, 6.0 mmol) in THF (32.5 mL) was added aqueous LiOH [prepared from LiOH monohydrate (1.02 g, 24 mmol) and H2O (10 mL)] dropwise at room temperature. The mixture was stirred at room temperature for 26 hours, and then evaporated. The aqueous mixture was diluted with 100 mL of H2O, washed with AcOEt (50 mL), and then carefully acidified to pH 4-5 with 10% HCl at 5° C. under stirring. The resulting solid was collected by filtration, washed with H2O, and dried at 60° C. overnight under reduced pressure to give the title compound as pale yellow crystal (3.09 g, 98%). 1H-NMR (300 MHz, DMSO-d6) δ ppm: 1.34 (d, J=7.0 Hz, 6H), 1.48 (s, 9H), 3.22 (septet, J=7.0 Hz, 1H), 6.93 (d, J=8.5 Hz, 1H), 7.36 (d, J=8.8 Hz, 2H), 7.54 (d, J=8.8 Hz, 2H), 7.63 (d, J=8.5 Hz, 1H), 7.75 (dd, J=8.5, 1.8 Hz, 1H), 7.89 (d,J=1.8 Hz, 1H), 8.58 (s, 1H), 8.84 (d,J=8.5 Hz, 1H), 9.61 (s, 1H), 10.16 (s, 1H), 12.98 (br-s, 1H)

reactant | 4-(4-tert-butoxycarbonylamino-phenylsulfanyl)-3-(7-isopropyl-pyrido[2,3-d]pyrimidin-4-ylamino)-benzoic acid methyl ester | 6.0 mmol, 3.25 g | COC(C1=CC(=C(C=C1)SC1=CC=C(C=C1)NC(=O)OC(C)(C)C)NC=1C2=C(N=CN1)N=C(C=C2)C(C)C)=O | C29H31N5O4S
reactant | LiOH | 24 mmol, 10 mL, 1.02 g | [Li+].[OH-]
solvent | THF | 32.5 mL | C1CCOC1 | C4H8O
product | 4-(4-tert-Butoxycarbonylamino-phenylsulfanyl)-3-(7-isopropyl-pyrido[2,3-d]pyrimidin-4-ylamino)-benzoic acid | 3.09 g, 98% | C(C)(C)(C)OC(=O)NC1=CC=C(C=C1)SC1=C(C=C(C(=O)O)C=C1)NC=1C2=C(N=CN1)N=C(C=C2)C(C)C | C28H29N5O4S
